US04033996
To a stirred, ice cold solution of 4-(2-tetrahydropyranyloxy)nonylamine (7.29 g., 0.03 mole) in pyridine (40 ml.) is added methanesulfonylchloride (3.42 g., 0.03 mole) at such a rate as to maintain the reaction temperature at 5°-10° C. The reaction is then allowed to stand at room temperature for six hours, poured into ice water (200 ml.) and extracted with ether (2× 100 ml.). The ether is washed with ice cold 5% hydrochloric acid (2× 20 ml.), with brine (2× 25 ml.), and then dried over sodium sulfate. Evaporation in vacuo affords N-[4-(2-tetrahydropyranyloxy)nonyl]methanesulfonamide as a pale yellow liquid.

reactant | 4-(2-tetrahydropyranyloxy)nonylamine | 0.03 mole, 7.29 g | O1C(CCCC1)OC(CCCN)CCCCC | C14H29NO2
reactant | methanesulfonylchloride | 0.03 mole, 3.42 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(2-tetrahydropyranyloxy)nonyl]methanesulfonamide | O1C(CCCC1)OC(CCCNS(=O)(=O)C)CCCCC | C15H31NO4S
